US06673794B2
42.6 g potassium tert-butylate and 169.8 g 3-(benzoic acid methyl ester)-methyltriphenylphosphonium chloride were suspended in 1.51 analytical grade toluene under a nitrogen atmosphere at room temperature and the suspension was then stirred at 70° C. for one hour. 10 g 4-dimethylaminomethyl-3-(3-methoxy-phenyl)-cyclohex-2-enone in 100 ml analytical grade toluene were added at this temperature and the mixture was stirred at 70° C. for 3 days. The mixture was quenched with 500 ml water. The phases were separated and the aqueous phase was washed 3 times with 200 ml ethyl acetate each time. The combined organic phases were dried over magnesium sulfate and then freed from solvent in vacuo. The residue obtained in this way was taken up in a mixture of 150 ml ethyl acetate and 150 ml diiso-ether. The solid which had precipitated out was filtered off and washed with diiso-ether. The combined organic phases were freed from the solvent in vacuo. The residue was purified by column chromatography on silica gel with ethyl acetate/methanol=9/1. 5.3 g E-3-[4-dimethylaminomethyl-3-(3-methoxy-phenyl)-2-methyl-cyclohex-2-enylidenemethyl]-benzoic acid methyl ester were obtained as the first product fraction in the form of an orange-yellow oil. To prepare the hydrochloride, the oil was dissolved in 100 ml acetone, and an equimolar amount of trimethylchlorosilane and water was added. 5 g (30.7% of theory) of the title compound 10 were obtained in this way in the form of white crystals. 4 g Z-3-[4-dimethylaminomethyl-3-(3-methoxy-phenyl)-2-methyl-cyclohex-2-enylidenemethyl]-benzoic acid methyl ester were obtained as the second product fraction, likewise in the form of an orange-yellow oil. To liberate the hydrochloride, the oil was dissolved in 100 ml acetone, and an equimolar amount of trimethylchlorosilane and water was added. 3.5 g (21.5% of theory) of the title compound were obtained in this way in the form of white crystals.

reactant | potassium tert-butylate | 42.6 g | CC(C)(C)[O-].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 4-dimethylaminomethyl-3-(3-methoxy-phenyl)-cyclohex-2-enone | 10 g | CN(C)CC1C(=CC(CC1)=O)C1=CC(=CC=C1)OC | C16H21NO2
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | E-3-[4-dimethylaminomethyl-3-(3-methoxy-phenyl)-2-methyl-cyclohex-2-enylidenemethyl]-benzoic acid methyl ester | 5.3 g | COC(C1=CC(=CC=C1)/C=C\1/C(=C(C(CC1)CN(C)C)C1=CC(=CC=C1)OC)C)=O | C26H31NO3
